US09303012B2
b) 2-Chloro-3-(3-fluorooxetan-3-yl)-6-methylpyridine
In analogy to the procedure described in Example 130 b), 3-(2-chloro-6-methylpyridin-3-yl)oxetan-3-ol (Example 134 a, 1.5 g, 7.51 mmol) was reacted with diethylaminosulfur trifluoride to obtain the title compound (850 mg, 56%) as colorless liquid, MS (ESI): m/e=202.1 [MH+].

reactant | 3-(2-chloro-6-methylpyridin-3-yl)oxetan-3-ol | ClC1=NC(=CC=C1C1(COC1)O)C | C9H10ClNO2
reactant | diethylaminosulfur trifluoride | C(C)N(CC)S(F)(F)F | C4H10F3NS
product | 2-Chloro-3-(3-fluorooxetan-3-yl)-6-methylpyridine | 850 mg, 56% | ClC1=NC(=CC=C1C1(COC1)F)C | C9H9ClFNO
